US08859814B2
3-{3-[(1H-indol-4-ylsulfonyl)amino]-4-(4-methylpiperidin-1-yl)-4-oxobutyl}benzoic acid
Example 84 is prepared from 3-[3-tert-butoxycarbonylamino-4-(4-methyl-piperidin-1-yl)-4-oxo-butyl]-benzoic acid and lithum 1-(tert-butoxycarbonyl)-1H-indole-4-sulfinic acid in the same manner as Example 71. ESI MS Calc. 483.2; Found. 484.8 (M+H)+.

reactant | 3-[3-tert-butoxycarbonylamino-4-(4-methyl-piperidin-1-yl)-4-oxo-butyl]-benzoic acid | C(C)(C)(C)OC(=O)NC(CCC=1C=C(C(=O)O)C=CC1)C(=O)N1CCC(CC1)C | C22H32N2O5
reactant | lithum 1-(tert-butoxycarbonyl)-1H-indole-4-sulfinic acid | C(C)(C)(C)OC(=O)N1C=CC=2C(=CC=CC12)S(=O)O.[Li]
product | 3-{3-[(1H-indol-4-ylsulfonyl)amino]-4-(4-methylpiperidin-1-yl)-4-oxobutyl}benzoic acid | N1C=CC2=C(C=CC=C12)S(=O)(=O)NC(CCC=1C=C(C(=O)O)C=CC1)C(=O)N1CCC(CC1)C | C25H29N3O5S
